US09024027B2
A mixture of (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (0.200 g, 0.476 mmol), 2-(6-methoxy-2,3-dioxoindolin-1-yl)acetic acid (0.112 g, 0.476 mmol), DMAP (0.029 g, 0.238 mmol) and EDC (0.274 g, 1.428 mmol) in DCM (10 ml) was stirred at room temperature for 4 hours; then the reaction mixture was washed with 1N HCl, aqueous 5% NaHCO3 and brine. The organic layer was dried over Na2SO4 and evaporated to dryness. The crude was purified by flash chromatography on silica gel (ethyl acetate:DCM=7:3) to give (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(6-methoxy-2,3-dioxoindolin-1-yl)acetoxy)ethyl)pyridine 1-oxide (0.166 g, 0.260 mmol, 55% yield). MS/ESI+ 637.19 [MH]+; [αD]=+67.91 c=0.22 in DCM; 1H NMR (300 MHz, DMSO-d6) δ ppm 8.37 (s, 2H), 7.61 (d, 1H), 7.17 (d, 1H), 7.05 (d, 1H), 6.94 (dd, 1H), 7.07 (t, 1H), 6.69 (dd, 1H), 6.66 (d, 1H), 6.02 (dd, 1H), 4.60 (s, 2H), 3.89 (d, 2H), 3.86 (s, 3H), 3.38 (dd, 1H), 3.19 (dd, 1H), 1.07-1.33 (m, 1H), 0.48-0.67 (m, 2H), 0.18-0.48 (m, 2H)

reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.476 mmol, 0.200 g | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | 2-(6-methoxy-2,3-dioxoindolin-1-yl)acetic acid | 0.476 mmol, 0.112 g | COC1=CC=C2C(C(N(C2=C1)CC(=O)O)=O)=O | C11H9NO5
reactant | EDC | 1.428 mmol, 0.274 g
catalyst | DMAP | 0.238 mmol, 0.029 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(6-methoxy-2,3-dioxoindolin-1-yl)acetoxy)ethyl)pyridine 1-oxide | 0.260 mmol, 0.166 g, 55% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C(C2=CC=C(C=C12)OC)=O)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C29H24Cl2F2N2O8
